US08293735B2
1-(Tetrahydro-pyran-4-yl)-piperazin-2-one
To a solution of [2-(tetrahydro-pyran-4-ylamino)-ethyl]-carbamic acid tert-butyl ester (6.60 g, 27.0 mmol) in DCM (100 mL) was added triethylamine (11.3 mL, 81.1 mmol) followed by chloroacetyl chloride (3.64 g, 32.4 mmol) dropwise. The reaction mixture was stirred at RT for 24 h, then partitioned between DCM and saturated NaHCO3 aqueous solution. The organic layer was isolated, dried (Na2SO4) and concentrated in vacuo. To a solution of the resulting residue in THF (50 mL) was added sodium hydride (60% in mineral oil) (1.62 g, 40.6 mmol). The reaction mixture was stirred at RT for 20 h, then partitioned between DCM and water. The organic layer was dried (Na2SO4) and concentrated in vacuo to yield an orange residue. The residue (7.66 g, 27.0 mmol) was dissolved in dichloromethane (15 mL) and TFA (15 mL) was added. The resulting solution was stirred at RT for 4 h before being concentrated in vacuo. The resultant residue was loaded onto an Isolute® SCX-2 cartridge, washed with MeOH then eluted with 2 M NH3 in MeOH to give the title compound as yellow oil (4.26 g, 86%).

reactant | [2-(tetrahydro-pyran-4-ylamino)-ethyl]-carbamic acid tert-butyl ester | 27.0 mmol, 6.60 g | C(C)(C)(C)OC(NCCNC1CCOCC1)=O | C12H24N2O3
reactant | triethylamine | 81.1 mmol, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 32.4 mmol, 3.64 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydride | 40.6 mmol, 1.62 g | [H-].[Na+]
reactant | TFA | 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(Tetrahydro-pyran-4-yl)-piperazin-2-one | 4.26 g, 86% | O1CCC(CC1)N1C(CNCC1)=O | C9H16N2O2
